US07071201B2
Example 88: Synthesis of 1-[1-(t-butoxycarbonyl)piperidin-4-yl]-6-bromoindoline
Triacetoxylated sodium borohydride (11.7 g) was added to a mixture of 6- bromoindoline (8.3 g), 1-(t-butoxycarbonyl)-4-piperidone (10 g, [CAS Registry No. 7909-07-3]), acetic acid (14.9 g) and dichloroethane (200 ml) followed by stirring overnight. Then the reaction solution was concentrated under reduced pressure, and the pH value thereof was adjusted to 9 with ethyl acetate, an 8 N aqueous solution of sodium hydroxide and water and the layers were separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (10.3 g) (yield: 64%).

reactant | 6- bromoindoline | 8.3 g | BrC1=CC=C2CCNC2=C1 | C8H8BrN
reactant | 1-(t-butoxycarbonyl)-4-piperidone | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
solvent | acetic acid | 14.9 g | C(C)(=O)O | C2H4O2
product | 1-[1-(t-butoxycarbonyl)piperidin-4-yl]-6-bromoindoline | 10.3 g, yield: 64% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCC2=CC=C(C=C12)Br | C18H25BrN2O2
